US08871767B2
3-chloro-6-methoxy-2-(4-methyl-3-nitrophenyl)imidazo[1,2-b]pyridazine
To a stirred solution of 6-methoxy-2-(4-methyl-3-nitrophenyl)imidazo[1,2-b]pyridazine (0.250 g, 0.879 mmol) in acetonitrile (20 mL) is added N-chlorosuccinimide (0.879 mmol) and the mixture is heated at 60° C. for 8 hours. The reaction mixture is diluted with water (50 mL), and sat. aqueous NaHCO3 (50 mL). The precipitate that forms is collected by filtration, washed with water (3×25 mL) and dried under vacuum to give the title compound (0.277 g, 98% yield) as a yellow solid: Rf 0.60 (1:1 EtOAc:hexanes); LCMS (m/z)=319.3, 321.2 [M+H]+, tR=3.02 min.

reactant | 6-methoxy-2-(4-methyl-3-nitrophenyl)imidazo[1,2-b]pyridazine | 0.879 mmol, 0.250 g | COC=1C=CC=2N(N1)C=C(N2)C2=CC(=C(C=C2)C)[N+](=O)[O-] | C14H12N4O3
reactant | N-chlorosuccinimide | 0.879 mmol | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
solvent | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
product | 3-chloro-6-methoxy-2-(4-methyl-3-nitrophenyl)imidazo[1,2-b]pyridazine | 0.277 g, 98% yield | ClC1=C(N=C2N1N=C(C=C2)OC)C2=CC(=C(C=C2)C)[N+](=O)[O-] | C14H11ClN4O3
